US05945440
500 mg (1.18 mmol) 3-[1-(2-cyanoethyl)-5-methoxy-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione in 50 ml toluene are heated under reflux for 30 minutes with 225 mg (1.18 mmol) p-toluenesulphonic acid hydrate and 315 mg (1.39 mmol) 2,3-dichloro-5,6-dicyano-p-benzoquinone (DDQ). After cooling, the reaction mixture is evaporated in a vacuum and the residue is stirred with 100 ml 0.1N sodium hydroxide solution. The aqueous suspension is saturated with sodium chloride and extracted twice with, in each case, 100 ml tetrahydrofuran. The tetrahydrofuran solutions are washed twice with, in each case, 100 ml saturated sodium chloride solution. The residue is chromatographed on silica gel with toluene/acetone (4:1 v/v). The fraction with the Rf 0.3 is isolated, stirred up with diisopropyl ether and the crystals formed are filtered off. There are obtained 270 mg (54% of theory) 13-(2-cyanoethyl)-6,7,12,13-tetrahydro-3-methoxy-12-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole in the form of yellow crystals which decompose from about 260° C. with the evolution of gas.

reactant | 3-[1-(2-cyanoethyl)-5-methoxy-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 1.18 mmol, 500 mg | C(#N)CCN1C=C(C2=CC(=CC=C12)OC)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C25H20N4O3
reactant | p-toluenesulphonic acid hydrate | 1.18 mmol, 225 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 1.39 mmol, 315 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 13-(2-cyanoethyl)-6,7,12,13-tetrahydro-3-methoxy-12-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | 270 mg, 54% | C(#N)CCN1C=2C=CC(=CC2C2=C1C=1N(C3=CC=CC=C3C1C1=C2C(NC1=O)=O)C)OC | C25H18N4O3
